Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Overwhelming feelings"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female ___ ___, with 
history of anxiety, brought in by EMS after intentional 
ingestion of Effexor and Prazosin. 

Per initial ED evaluation by ___, MD on ___: 
"Per EMS report, the patient called ___ after "an attempt to 
kill herself by taking pills at approx 1600. Pt states she 
believes she took 9 Prazosin (2mg each, filled ___ with 30 
originally in the bottle) and 15 Effexor (75mg each, filled 
___ with 30 originally in the bottle--pt states prior to today 
she had been taking ___ at a time)." 

On interview with the patient, she reports that she has been 
struggling lately with increased stress related to classes, 
basketball and a recent break up with her ex boyfriend. She 
states that within this context, she had a bad basketball 
practice on the day of presentation after which she was told 
that she wouldn't be playing in the next game. She states that 
she then had an argument with her ex, which got her "blood 
boiling", and while angry she was packing for a trip. She states 
that then while packing away her pills, she impulsively had the 
idea to overdose on her pills with the intent to "pass away." 
She denies having suicidal thoughts prior to this evening. 

She reports that in recent week her mood has been quite down, 
with associated poor sleep maintenance, fatigue, poor appetite 
(only eating at most 1 meal daily), anhedonia, amotivation, poor 
concentration. She denies having ongoing suicidal ideation at 
this time. Denies HI, AVH, but does report some hypervigilance 
when in public thinking that other people may attack her. She 
reports some previous traumatic events which she declines to 
detail, but reports that she suffers nightmares secondary to 
this. She denies any flashbacks, but does report avoiding public 
transportation secondary to her fear. 

She denies recent or remote hx of mania or psychosis, denying 
decreased need for sleep, grandiosity, delusions, increased 
goal-directed behavior or perceptual disturbances. She reports 
intermittent brief panic in recent weeks last up to 30 seconds 
at a time during which she becomes acutely anxious with SOB and 
uncontrollable crying. 

Per collateral obtained by Dr. ___: Mother - ___ 
___ - ___ (mother's cell phone) Father - ___ 
___, ___ (father's cell) 

___ don't really know what happened. Patient very vibrant, 
last spoke earlier today, around noon, and was going to take a 
Lyft to play a basketball game tomorrow. No safety concerns or 
warning signals. Other than being worried about the game, really 
nothing unusual going on. Spoke again at hospital, brief, went 
well. Patient felt tired. 

Over a year ago, felt suicidal, wasn't happy with how things 
were going. Therapist, doctor, and ___ did safety planning 
as a precaution. She wanted to go back to class but then police 
came, took her to hospital, couldn't leave. Felt what she shared 
with counselor was taken out of line. Discharged to outpatient, 
through the ___ counseling. Did not attempt to 
overdose at that time. 

No specific stressors. Some challenges with collegiate sports, 
feeling her performance could be better. Had a relationship that 
ended a while ago. No concerns for substance use - "she is 
athlete." School work is going well, made honor roll. Mother saw 
her last ___, was playing in ___. 

No known psychiatric diagnoses. No family psychiatric 
conditions, suicide attempts, or substance use. Believes recent 
prescriptions within past month. Mother had been concerned with 
side effects of suicidality due to SNRI. ___ do not feel 
this suicide attempt was characteristic of patient. Can't say if 
she was particularly more anxious, worry seemed normal. No known 
traumas or assaults. No bullying or difficulty. Met all 
developmental milestones ahead of time, advanced for age. 

Collateral from ___, MD on ___: "per nursing 
report, early this morning ___ police arrived to the 
department, stating that the patient's roommates had just 
returned from a trip and they found a note inthe patient's 
bedroom stating the following: "To my friends, family, and team, 
you'll be better off without me. Signed, ___

___ EMS Run Report: ___ f AOx4 found RLR on floor of her 
dorm room reporting an attempt to kill herself by taking pills 
at approx 1600. Pt states she believes she took 9 Prazosin (2mg 
each, filled ___ with 30 originally in the bottle) and 15 
Effexor (75mg each, filled ___ with 30 originally in the 
bottle--pt states prior to today she had been taking ___ at a 
time). Both bottles presented to EMS were found empty and 
prescribed to the pt. Pt complains of generalized abd pain and 
nausea with one episode of vomiting approx 30 min ptoa. Pt 
denies HI/hallucinations, denies hx of suicide attempts. Pt 
reports hx of anxiety, semi-compliant with medication. Pt denies 
etoh/drugs. Pt monitored during transport to BID."

ROS: reports feeling very tired but otherwise full 10-point ROS 
reviewed and negative"

ED Course: Patient with lactic acidosis (peak 4.7, now 
resolved), hyperreflexia, clonus. Patient required activated 
charcoal and Ativan, toxicology consult, 12 hour observation 
prior to medical clearance. 

On admission, patient reported impulsive and "irresponsible" 
intentional ingestion on her Effexor and prazosin. She denies 
that this was an attempt to die, rather an "act of desperation" 
and trying not to be upset before her bus ride to ___. Woke 
up feeling on edge due to game, had a tough practice and felt 
her performance was poor, not needed on the floor. Then had a 
rare argument with ex-boyfriend over returning a lost 
sweatshirt, and couldn't stop crying. Tried to call sisters, 
___ but ___ get in touch. Roommates/teammates not 
available. Saw her meds while packing, took them all, and then 
immediately thought "do you know what you just did?", called 
mom, trying to make herself vomit but not getting any pills up, 
panicked. Asked mother to call ___, had neighbor gather 
medication pills for EMS. Regretted attempt instantly. Usually 
uses coping skills of distraction, prayer, journaling, reaching 
out to others. Did not think to access ___ 
___. Describes herself as "wears my heart on my sleeve," 
"very bubbly." Does not think she would ever attempt to overdose 
again, cannot believe she did that, very out of character. Wants 
to use admission for coping skills, unsure about medications.

On medications since late ___, felt helpful for 
anxiety/sleep. Cannot totally recall if trial of Zoloft, but 
knows she and mom looked through medication side effects and 
ultimately decided on venlafaxine. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: anxiety
- Hospitalizations: denies 
- Psychiatrist: ___, ___
- Therapist: ___
- Medication trials: Sertraline, Effexor, Prazosin 
- Suicide attempts: denies
- Harm to others: denies
- Trauma: unknown
- Access to weapons: denies

PAST MEDICAL HISTORY:
Denies history of head trauma, seizure.

None

 MEDICATIONS including vitamins, herbs, supplements, OTC:
Effexor 75 mg daily
Prazosin 2 mg qhs

 ALLERGIES:
penicillin
amoxicillin       
 
Social History:
 SUBSTANCE ABUSE HISTORY:
- Alcohol: denies
- Tobacco: denies
- Other Drugs: Denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: denies
- Suicide Attempts/Completed Suicides: denies
- Substance Use Disorders: denies
 
Physical Exam:
EXAM
Vitals: BP 117/84, HR 69, RR 16, O2 Sat 99%, T 98.1

Physical Exam: 
GEN: well-developed
HEENT:  Normocephalic, atraumatic. Moist mucous membranes.
Anicteric sclera. 
CV:  Slow rate, normal S1, S2. No murmurs/rubs/gallops. 2+ 
radial
pulses.
RESP: Non-labored. Clear to auscultation bilaterally. No
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral
edema.
SKIN: No rashes or lesions noted.
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 4mm to 2mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal
stride and arm-swing. No ataxia noted. Normal coordination of
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements
appreciated.
 
Cognition: 
- Wakefulness/alertness: Awake and alert
- Attention: MOYB with 0 errors in ED
- Orientation: Oriented to person, time, place, situation
- Memory: ___ registration,  long-term grossly intact
- Fund of knowledge: appropriate for education
- Calculations: intact in ED
- Abstraction:  "never judge a book by its cover" = don't make
assumptions based on appearance; watch/ruler - measure
- Speech: fluent, spontaneous, clear. normal volume, rate, tone,
and prosody. no slurring.
- Language: fluent ___
 
Mental Status:
- Appearance: lankly black woman appearing stated age, wearing
hospital gown, beanie hat, in no apparent distress
- Behavior: Sitting upright, appropriate eye contact. No
psychomotor agitation or retardation
- Attitude: Cooperative, engaged, pleasant, forthcoming.
- Mood: "good"
- Affect: Mood-congruent, full range, generally appropriate to
situation but very bright, somewhat expansive 
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content:
  Safety: Denies SI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
  Insight / Judgment: fair / improving
 
Pertinent Results:
___ 05:40AM BLOOD WBC-7.7 RBC-5.49* Hgb-12.6 Hct-40.5 
MCV-74* MCH-23.0* MCHC-31.1* RDW-15.2 RDWSD-39.8 Plt ___
___ 05:40AM BLOOD Glucose-82 UreaN-13 Creat-0.9 Na-140 
K-3.8 Cl-105 HCO3-24 AnGap-11
___ 05:40AM BLOOD Calcium-9.0 Phos-5.2* Mg-1.9
___ 05:40AM BLOOD VitB12-626
___ 05:40AM BLOOD TSH-1.7
___ 05:40AM BLOOD PTH-43
___ 05:40AM BLOOD 25VitD-12*

___ 06:51AM BLOOD WBC: 6.9 RBC: 4.76 Hgb: 10.9* Hct: 35.3
MCV: 74* MCH: 22.9* MCHC: 30.9* RDW: 15.1 RDWSD: 39.___
___ 06:51AM BLOOD Neuts: 52.1 Lymphs: ___ Monos: 8.7 Eos:
1.7 Baso: 0.4 Im ___: 0.3 AbsNeut: 3.57 AbsLymp: 2.53 AbsMono:
0.60 AbsEos: 0.12 AbsBaso: 0.03 
___ 05:57PM BLOOD ___: 12.2 PTT: 21.2* ___: 1.1 
___ 06:51AM BLOOD Glucose: 84 UreaN: 6 Creat: 0.8 Na: 140 
K:
3.9 Cl: 109* HCO3: 22 AnGap: 9* 
___ 05:57PM BLOOD ALT: 13 AST: 23 AlkPhos: 45 TotBili: 0.5 
___ 06:51AM BLOOD Calcium: 8.5 Phos: 3.5 Mg: 1.9 
___ 05:57PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 
___ 06:02PM BLOOD Type: ___ pO2: 73* pCO2: 35 pH: 7.39
calTCO2: 22 Base XS: -2 
___ 06:51AM BLOOD Lactate: 1.2 
___ 06:10PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

___ 05:40AM BLOOD WBC-7.7 RBC-5.49* Hgb-12.6 Hct-40.5 
MCV-74* MCH-23.0* MCHC-31.1* RDW-15.2 RDWSD-39.8 Plt ___
___ 05:40AM BLOOD Glucose-82 UreaN-13 Creat-0.9 Na-140 
K-3.8 Cl-105 HCO3-24 AnGap-11
___ 05:40AM BLOOD Calcium-9.0 Phos-5.2* Mg-1.9
___ 05:40AM BLOOD VitB12-626
___ 05:40AM BLOOD TSH-1.7
___ 05:40AM BLOOD PTH-43
___ 05:40AM BLOOD 25VitD-12*
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission until signing a 3-day notice on 
___. At that time the patient was not deemed to be at risk 
of harm to self/others and the patient was discharged on 
___.  They were also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted. She was granted monitored access to 
sharps. No behavioral incidents or security or restraint 
intervention. 

2. PSYCHIATRIC:
 #) Unspecified anxiety 
 #) Adjustment disorder
 1) On admission, patient described an impulsive intentional 
ingestion on Effexor and Prazosin in the setting of athletic and 
relationship stressors. She denied preceding depression, 
described a pattern of lifelong anxiety, some sensitivity to 
rejection/perceived shortcomings. She presented as euthymic, 
bright, reactive, with linear thought process and insight with 
reflection on suicide attempt. 
 2) Diagnostically, differential included major mood episode 
(unipolar vs. bipolar depression, particularly given expansive 
affect), chronic dysthymia, unspecified anxiety. Patient also 
relayed significant stress around increased athletic demands 
(now starting on basketball team), and fight with ex-boyfriend 
(relationship ended several months ago), and thus seemed 
consistent with adjustment disorder. 
 3) Intervention proposed/offered including 
antidepressant/anxiolytic medication regimen. Patient and family 
declined to start a standing medication in light of overdose, 
but agreed to PRN hydroxyzine 25mg po BID for anxiety/sleep, 
used about once daily at night. Psychoeducation and coping 
skills provided. 
 4) Outcome included stable, bright affect, continued 
denial/resolution of suicidal ideation, remorse over intentional 
ingestion. Patient responded well to DBT skills teaching, opting 
to make copies of the DBT manual and planning to purchase her 
own manual on discharge. She identified additional coping skills 
and outreach supports (mental health providers at ___ 
for contingency planning if suicidal urges recurred. 
 5) Future consideration could be given to trial of SSRI/SNRI 
for anxiety, which patient plans to discuss with outpatient 
providers. If medications are provided, would limit 
prescriptions to less than 1 month supply. Recommend continued 
DBT/distress tolerance coping skills, as patient identifies 
feeling overwhelmed as most significant trigger for ingestion. 
Patient also seems to have difficulty around self-esteem 
regulation when she perceives failures or shortcomings, so would 
continue to support and validate around self-worth outside of 
external accomplishments. 

3. SUBSTANCE USE DISORDERS: No active substance use issues. 

4. MEDICAL
 #) Hypovitaminosis D: Routine admission lab work with 
25-vitamin D of 12. Began supplementation with 1000 units daily. 
Discharged on ___ units daily. Patient will follow-up with 
student health. 
 
 #) Contraceptive: Continued home ___ (21) 1.5-30 
mg-mcg
oral QPM. 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills, and particularly enjoyed DBT 
skills offered on individual basis.  Patient was bright, 
appropriate, and sociable in the milieu, seen socializing with 
staff and peers, or working independently on computer or 
television.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral information was obtained from ___ and 
___. Her father visited daily and was 
involved in family meetings, treatment and dispositional 
planning. Her providers were amenable with discharge plan and 
return to ___.
Family meeting with patient and her father was held on ___. 
Pt, her father, Dr. ___, MSW, and Dr. ___ 
___ present. It became clear that family is closely knit and 
supportive. Pt and her father had opportunity to review events 
preceding hospital admission and tx plan. Pt is interested in 
resuming individual therapy. She is also very much interested in 
skills oriented individual and group therapy (esp DBT). Pt and 
family were provided with psychoeducation. We discussed risks 
factors for suicidal behaviors. Pt was strongly encouraged to 
proceed with outpatient treatment. Also, we discussed importance 
refraining from alcohol and illicits as these substances can 
increase impulsivity and risk for self injury. Pt and her father 
were also provided with info about support resources (including 
NAMI). 

 #) INTERVENTIONS
 - Medications: hydroxyzine 25mg po qday PRN; vitamin D ___ 
units daily
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: ___ psychiatry/therapy 
and support groups; patient preferred on campus resources over 
community DBT group/IOP
 - Behavioral Interventions: encouraged DBT skills, safety 
planning
 - Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting hydroxyzine (dry mouth, constipation, sedation, danger 
in overdose), and risks and benefits of possible alternatives, 
including not taking the medication, with this patient. We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team.  The patient appeared 
able to understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon intentional 
ingestion requiring activated charcoal and medical 
stabilization. Their static factors noted at that time include 
anxiety, age, marital status. The modifiable risk factors 
included impulsivity, poor distress tolerance, hypersensitivity 
to rejection, also addressed at that time.  These were addressed 
through medication regimen and coping skills teaching.  Finally, 
the patient is being discharged with many protective risk 
factors,  female gender,
education, supportive family, engagement with outpatient 
providers, medication adherence, spirituality, no access to 
lethal weapons, no substance use, resolution of suicidal 
ideation, remorse, future-oriented.  Based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ (21) (norethindrone ac-eth estradiol) 1.5-30 
mg-mcg oral QPM 
2. Venlafaxine 75 mg PO DAILY 
3. Prazosin 2 mg PO QHS 
4. Differin (adapalene) 0.1 % topical DAILY:PRN 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN agitation 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 capsule(s) by mouth 
once a day Disp #*14 Tablet Refills:*0 
3.  Differin (adapalene) 0.1 % topical DAILY:PRN  
4.  ___ (21) (norethindrone ac-eth estradiol) 1.5-30 
mg-mcg oral QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with anxiety and depression
Generalized anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
MENTAL STATUS:
- Appearance: tall, well-developed black woman appearing stated 
age, dressed casually, in no apparent distress
- Behavior: Sitting upright, appropriate eye contact. No
psychomotor agitation or retardation
- Attitude: Cooperative, engaged, pleasant, forthcoming.
- Mood: 'good'
- Affect: Mood-congruent, full range, generally appropriate to
situation but very bright, somewhat expansive 
- Thought process: Linear, coherent, goal-oriented, no loose
associations
- Thought Content: Patient is able to safety plan, agrees to 
contact providers and family if suicidal urges recur, 
future-oriented, excited to return to class/basketball and 
celebrate ___ with teammates. 
  Safety: Denies SI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
  Insight / Judgment: fair / improving

COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: oriented
 *Memory: long-term grossly intact
 *Speech: fluent, spontaneous, clear. normal volume, rate, tone,
prosody. 
 *Language: fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___